US07160888B2
Synthesis of 7-{5-[4-(6-Ethyl-pyridin-2-yl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
7-{5-[4-(6-Ethyl-pyridin-2-yl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one (0.515 g, 1.27 mmol) was hydrogenated using 20% Pd/C in EtOH for 103 h. The reaction was filtered and concentrated. Purification by liquid chromatography (Biotage 12 SiO2 column, CH2Cl2 to 1% MeOH/CH2Cl2) followed by recrystallization from Et2O gave the title compound as a solid (50 mg, 0.012 mmol, 10%). MS: APCI: M+1: 408.2 (Exact Mass: 407.27).

reactant | 7-{5-[4-(6-Ethyl-pyridin-2-yl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 1.27 mmol, 0.515 g | C(C)C1=CC=CC(=N1)N1CCN(CC1)CCCC=CC1=CC=C2CCC(NC2=N1)=O | C24H31N5O
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 7-{5-[4-(6-Ethyl-pyridin-2-yl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.012 mmol, 50 mg, 10% | C(C)C1=CC=CC(=N1)N1CCN(CC1)CCCCCC1=CC=C2CCC(NC2=N1)=O | C24H33N5O
